US05089654
To a suspension of 970 mg of magnesium in 20 ml of tetrahydrofuran was added dropwise a solution of 5.4 g of 4-bromo-1-butene in 20 ml of tetrahydrofuran while keeping at 50° C. Then, a solution of 10.0 g of 4-bromobenzyl bromide in 20 ml of tetrahydrofuran was added dropwise slowly, and the mixture was refluxed for an hour, made acidic with dilute hydrochloric acid and extracted with n-hexane. The organic layer was washed with water and dried over magnesium sulfate. The solvent was evaporated under reduced pressure, and the residue was chromatographed on silica gel column with n-hexane to give 1.14 g of 4-(4-pentenyl)bromobenzene.

reactant | magnesium | 970 mg | [Mg] | Mg
reactant | 4-bromo-1-butene | 5.4 g | BrCCC=C | C4H7Br
reactant | 4-bromobenzyl bromide | 10.0 g | BrC1=CC=C(CBr)C=C1 | C7H6Br2
reactant | hydrochloric acid | Cl | ClH
solvent | tetrahydrofuran | 20 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 20 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 20 ml | O1CCCC1 | C4H8O
product | 4-(4-pentenyl)bromobenzene | 1.14 g | C(CCC=C)C1=CC=C(C=C1)Br | C11H13Br
